US04744998
0.20 kg citric acid
The colouring agent and the flavouring agent were the same as in Example I. The mixture was treated in the same manner but the brine solution was now containing only 80 g of common salt besides 8 g of calcium chloride and having a pH-value which was adjusted at 5.0 by means of lactic acid.

reactant | calcium chloride | 8 g | [Cl-].[Ca+2].[Cl-]
reactant | lactic acid | C(C(O)C)(=O)O | C3H6O3
reactant | brine | [Cl-].[Na+].O
product | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
